** sch_path: /foss/designs/engn1600-team1/CAD6/pc.sch
.subckt pc VDD VSS CLK RSTn BR DISP7 DISP6 DISP5 DISP4 DISP3 DISP2 DISP1 DISP0 JMP DEST15 DEST14 DEST13 DEST12 DEST11 DEST10 DEST9
+ DEST8 DEST7 DEST6 DEST5 DEST4 DEST3 DEST2 DEST1 DEST0 SI SE PC15 PC14 PC13 PC12 PC11 PC10 PC9 PC8 PC7 PC6 PC5 PC4 PC3 PC2 PC1 PC0
*.PININFO JMP:I BR:I VDD:B DISP[7..0]:I PC[15..0]:O SI:I SE:I DEST[15..0]:I VSS:B CLK:I RSTn:I
x1 VDD VSS DISP_SE DISP7 sign_extend
x215 VSS BR BR15b B15 VDD VSS DISP_SE 2x1_mux
x214 VSS BR BR14b B14 VDD VSS DISP_SE 2x1_mux
x213 VSS BR BR13b B13 VDD VSS DISP_SE 2x1_mux
x212 VSS BR BR12b B12 VDD VSS DISP_SE 2x1_mux
x211 VSS BR BR11b B11 VDD VSS DISP_SE 2x1_mux
x210 VSS BR BR10b B10 VDD VSS DISP_SE 2x1_mux
x29 VSS BR BR9b B9 VDD VSS DISP_SE 2x1_mux
x28 VSS BR BR8b B8 VDD VSS DISP_SE 2x1_mux
x27 VSS BR BR7b B7 VDD VSS DISP_SE 2x1_mux
x26 VSS BR BR6b B6 VDD VSS DISP6 2x1_mux
x25 VSS BR BR5b B5 VDD VSS DISP5 2x1_mux
x24 VSS BR BR4b B4 VDD VSS DISP4 2x1_mux
x23 VSS BR BR3b B3 VDD VSS DISP3 2x1_mux
x22 VSS BR BR2b B2 VDD VSS DISP2 2x1_mux
x21 VDD BR BR1b B1 VDD VSS DISP1 2x1_mux
x20 VSS BR BR0b B0 VDD VSS DISP0 2x1_mux
x815 VDD BR BR15b VSS inv kINV=1
x814 VDD BR BR14b VSS inv kINV=1
x813 VDD BR BR13b VSS inv kINV=1
x812 VDD BR BR12b VSS inv kINV=1
x811 VDD BR BR11b VSS inv kINV=1
x810 VDD BR BR10b VSS inv kINV=1
x89 VDD BR BR9b VSS inv kINV=1
x88 VDD BR BR8b VSS inv kINV=1
x87 VDD BR BR7b VSS inv kINV=1
x86 VDD BR BR6b VSS inv kINV=1
x85 VDD BR BR5b VSS inv kINV=1
x84 VDD BR BR4b VSS inv kINV=1
x83 VDD BR BR3b VSS inv kINV=1
x82 VDD BR BR2b VSS inv kINV=1
x81 VDD BR BR1b VSS inv kINV=1
x80 VDD BR BR0b VSS inv kINV=1
x915 VDD JMP JMP15b VSS inv kINV=1
x914 VDD JMP JMP14b VSS inv kINV=1
x913 VDD JMP JMP13b VSS inv kINV=1
x912 VDD JMP JMP12b VSS inv kINV=1
x911 VDD JMP JMP11b VSS inv kINV=1
x910 VDD JMP JMP10b VSS inv kINV=1
x99 VDD JMP JMP9b VSS inv kINV=1
x98 VDD JMP JMP8b VSS inv kINV=1
x97 VDD JMP JMP7b VSS inv kINV=1
x96 VDD JMP JMP6b VSS inv kINV=1
x95 VDD JMP JMP5b VSS inv kINV=1
x94 VDD JMP JMP4b VSS inv kINV=1
x93 VDD JMP JMP3b VSS inv kINV=1
x92 VDD JMP JMP2b VSS inv kINV=1
x91 VDD JMP JMP1b VSS inv kINV=1
x90 VDD JMP JMP0b VSS inv kINV=1
x515 PCB15 JMP JMP15b PCJ15 VDD VSS DEST15 2x1_mux
x514 PCB14 JMP JMP14b PCJ14 VDD VSS DEST14 2x1_mux
x513 PCB13 JMP JMP13b PCJ13 VDD VSS DEST13 2x1_mux
x512 PCB12 JMP JMP12b PCJ12 VDD VSS DEST12 2x1_mux
x511 PCB11 JMP JMP11b PCJ11 VDD VSS DEST11 2x1_mux
x510 PCB10 JMP JMP10b PCJ10 VDD VSS DEST10 2x1_mux
x59 PCB9 JMP JMP9b PCJ9 VDD VSS DEST9 2x1_mux
x58 PCB8 JMP JMP8b PCJ8 VDD VSS DEST8 2x1_mux
x57 PCB7 JMP JMP7b PCJ7 VDD VSS DEST7 2x1_mux
x56 PCB6 JMP JMP6b PCJ6 VDD VSS DEST6 2x1_mux
x55 PCB5 JMP JMP5b PCJ5 VDD VSS DEST5 2x1_mux
x54 PCB4 JMP JMP4b PCJ4 VDD VSS DEST4 2x1_mux
x53 PCB3 JMP JMP3b PCJ3 VDD VSS DEST3 2x1_mux
x52 PCB2 JMP JMP2b PCJ2 VDD VSS DEST2 2x1_mux
x51 PCB1 JMP JMP1b PCJ1 VDD VSS DEST1 2x1_mux
x50 PCB0 JMP JMP0b PCJ0 VDD VSS DEST0 2x1_mux
x315 CLK15b PC_NEXT15 PC15 RSTn CLK VDD VSS dff
x314 CLK14b PC_NEXT14 PC14 RSTn CLK VDD VSS dff
x313 CLK13b PC_NEXT13 PC13 RSTn CLK VDD VSS dff
x312 CLK12b PC_NEXT12 PC12 RSTn CLK VDD VSS dff
x311 CLK11b PC_NEXT11 PC11 RSTn CLK VDD VSS dff
x310 CLK10b PC_NEXT10 PC10 RSTn CLK VDD VSS dff
x39 CLK9b PC_NEXT9 PC9 RSTn CLK VDD VSS dff
x38 CLK8b PC_NEXT8 PC8 RSTn CLK VDD VSS dff
x37 CLK7b PC_NEXT7 PC7 RSTn CLK VDD VSS dff
x36 CLK6b PC_NEXT6 PC6 RSTn CLK VDD VSS dff
x35 CLK5b PC_NEXT5 PC5 RSTn CLK VDD VSS dff
x34 CLK4b PC_NEXT4 PC4 RSTn CLK VDD VSS dff
x33 CLK3b PC_NEXT3 PC3 RSTn CLK VDD VSS dff
x32 CLK2b PC_NEXT2 PC2 RSTn CLK VDD VSS dff
x31 CLK1b PC_NEXT1 PC1 RSTn CLK VDD VSS dff
x30 CLK0b PC_NEXT0 PC0 RSTn CLK VDD VSS dff
x115 VDD CLK CLK15b VSS inv kINV=1
x114 VDD CLK CLK14b VSS inv kINV=1
x113 VDD CLK CLK13b VSS inv kINV=1
x112 VDD CLK CLK12b VSS inv kINV=1
x111 VDD CLK CLK11b VSS inv kINV=1
x110 VDD CLK CLK10b VSS inv kINV=1
x19 VDD CLK CLK9b VSS inv kINV=1
x18 VDD CLK CLK8b VSS inv kINV=1
x17 VDD CLK CLK7b VSS inv kINV=1
x16 VDD CLK CLK6b VSS inv kINV=1
x15 VDD CLK CLK5b VSS inv kINV=1
x14 VDD CLK CLK4b VSS inv kINV=1
x13 VDD CLK CLK3b VSS inv kINV=1
x12 VDD CLK CLK2b VSS inv kINV=1
x11 VDD CLK CLK1b VSS inv kINV=1
x10 VDD CLK CLK0b VSS inv kINV=1
x415 VDD VSS PC15 B15 COUT14 PCB15 COUT15 full_adder kSUMb=1 kTS=1
x414 VDD VSS PC14 B14 COUT13 PCB14 COUT14 full_adder kSUMb=1 kTS=1
x413 VDD VSS PC13 B13 COUT12 PCB13 COUT13 full_adder kSUMb=1 kTS=1
x412 VDD VSS PC12 B12 COUT11 PCB12 COUT12 full_adder kSUMb=1 kTS=1
x411 VDD VSS PC11 B11 COUT10 PCB11 COUT11 full_adder kSUMb=1 kTS=1
x410 VDD VSS PC10 B10 COUT9 PCB10 COUT10 full_adder kSUMb=1 kTS=1
x49 VDD VSS PC9 B9 COUT8 PCB9 COUT9 full_adder kSUMb=1 kTS=1
x48 VDD VSS PC8 B8 COUT7 PCB8 COUT8 full_adder kSUMb=1 kTS=1
x47 VDD VSS PC7 B7 COUT6 PCB7 COUT7 full_adder kSUMb=1 kTS=1
x46 VDD VSS PC6 B6 COUT5 PCB6 COUT6 full_adder kSUMb=1 kTS=1
x45 VDD VSS PC5 B5 COUT4 PCB5 COUT5 full_adder kSUMb=1 kTS=1
x44 VDD VSS PC4 B4 COUT3 PCB4 COUT4 full_adder kSUMb=1 kTS=1
x43 VDD VSS PC3 B3 COUT2 PCB3 COUT3 full_adder kSUMb=1 kTS=1
x42 VDD VSS PC2 B2 COUT1 PCB2 COUT2 full_adder kSUMb=1 kTS=1
x41 VDD VSS PC1 B1 COUT0 PCB1 COUT1 full_adder kSUMb=1 kTS=1
x40 VDD VSS PC0 B0 VSS PCB0 COUT0 full_adder kSUMb=1 kTS=1
x715 PCJ15 SE SE15b PC_NEXT15 VDD VSS PC14 2x1_mux
x714 PCJ14 SE SE14b PC_NEXT14 VDD VSS PC13 2x1_mux
x713 PCJ13 SE SE13b PC_NEXT13 VDD VSS PC12 2x1_mux
x712 PCJ12 SE SE12b PC_NEXT12 VDD VSS PC11 2x1_mux
x711 PCJ11 SE SE11b PC_NEXT11 VDD VSS PC10 2x1_mux
x710 PCJ10 SE SE10b PC_NEXT10 VDD VSS PC9 2x1_mux
x79 PCJ9 SE SE9b PC_NEXT9 VDD VSS PC8 2x1_mux
x78 PCJ8 SE SE8b PC_NEXT8 VDD VSS PC7 2x1_mux
x77 PCJ7 SE SE7b PC_NEXT7 VDD VSS PC6 2x1_mux
x76 PCJ6 SE SE6b PC_NEXT6 VDD VSS PC5 2x1_mux
x75 PCJ5 SE SE5b PC_NEXT5 VDD VSS PC4 2x1_mux
x74 PCJ4 SE SE4b PC_NEXT4 VDD VSS PC3 2x1_mux
x73 PCJ3 SE SE3b PC_NEXT3 VDD VSS PC2 2x1_mux
x72 PCJ2 SE SE2b PC_NEXT2 VDD VSS PC1 2x1_mux
x71 PCJ1 SE SE1b PC_NEXT1 VDD VSS PC0 2x1_mux
x70 PCJ0 SE SE0b PC_NEXT0 VDD VSS SI 2x1_mux
x1015 VDD SE SE15b VSS inv kINV=1
x1014 VDD SE SE14b VSS inv kINV=1
x1013 VDD SE SE13b VSS inv kINV=1
x1012 VDD SE SE12b VSS inv kINV=1
x1011 VDD SE SE11b VSS inv kINV=1
x1010 VDD SE SE10b VSS inv kINV=1
x109 VDD SE SE9b VSS inv kINV=1
x108 VDD SE SE8b VSS inv kINV=1
x107 VDD SE SE7b VSS inv kINV=1
x106 VDD SE SE6b VSS inv kINV=1
x105 VDD SE SE5b VSS inv kINV=1
x104 VDD SE SE4b VSS inv kINV=1
x103 VDD SE SE3b VSS inv kINV=1
x102 VDD SE SE2b VSS inv kINV=1
x101 VDD SE SE1b VSS inv kINV=1
x100 VDD SE SE0b VSS inv kINV=1
**** begin user architecture code


.param kINV=1
.param kSUMb=1
.param kTS=1
.param Kb=1


**** end user architecture code
.ends

* expanding   symbol:  engn1600-team1/CAD6/sign_extend.sym # of pins=4
** sym_path: /foss/designs/engn1600-team1/CAD6/sign_extend.sym
** sch_path: /foss/designs/engn1600-team1/CAD6/sign_extend.sch
.subckt sign_extend VDD VSS OUT IN
*.PININFO VDD:B VSS:B IN:I OUT:O
M1 net1 IN VDD VDD pfet_03v3 L=0.28u W='3*0.72u' nf=1 m=1
M2 net1 IN VSS VSS nfet_03v3 L=0.28u W='3*0.36u' nf=1 m=1
M3 OUT net1 VDD VDD pfet_03v3 L=0.28u W='9*0.72u' nf=1 m=1
M4 OUT net1 VSS VSS nfet_03v3 L=0.28u W='9*0.36u' nf=1 m=1
.ends


* expanding   symbol:  engn1600-team1/CAD6/pc_2x1_mux.sym # of pins=7
** sym_path: /foss/designs/engn1600-team1/CAD6/pc_2x1_mux.sym
** sch_path: /foss/designs/engn1600-team1/CAD6/pc_2x1_mux.sch
.subckt 2x1_mux A SEL SELb Y VDD VSS B
*.PININFO A:I B:I SEL:I Y:O VDD:B VSS:B SELb:I
M1 Y SEL B VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M2 Y SELb B VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M3 Y SELb A VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M4 Y SEL A VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
.ends


* expanding   symbol:  engn1600-team1/CAD6/pc_inv.sym # of pins=4
** sym_path: /foss/designs/engn1600-team1/CAD6/pc_inv.sym
** sch_path: /foss/designs/engn1600-team1/CAD6/pc_inv.sch
.subckt inv VDD IN OUT VSS  kINV=1
*.PININFO IN:I OUT:O VDD:B VSS:B
M1 OUT IN VDD VDD pfet_03v3 L=0.28u W='1*0.72u' nf=1 m=1
M2 OUT IN VSS VSS nfet_03v3 L=0.28u W='1*0.36u' nf=1 m=1
**** begin user architecture code


.param kINV=1


**** end user architecture code
.ends


* expanding   symbol:  engn1600-team1/CAD6/pc_dff.sym # of pins=7
** sym_path: /foss/designs/engn1600-team1/CAD6/pc_dff.sym
** sch_path: /foss/designs/engn1600-team1/CAD6/pc_dff.sch
.subckt dff CLKb D Q RSTn CLK VDD VSS
*.PININFO D:I Q:O RSTn:I CLK:I CLKb:I VDD:B VSS:B
M7 net2 CLK VDD VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M8 net1 D net2 VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M9 net1 D net3 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M10 net3 CLKb VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M13 net4 net1 VDD VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M14 net4 net1 VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M15 net1 CLKb net5 VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M16 net1 CLK net5 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M25 net5 RSTn VDD VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M26 net5 net4 VDD VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M27 net6 net4 VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M28 net5 RSTn net6 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M29 net4 CLKb net7 VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M30 net4 CLK net7 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M31 net8 net7 VDD VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M32 net8 RSTn VDD VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M33 net9 RSTn VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M34 net8 net7 net9 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M35 net10 CLK VDD VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M36 net7 net8 net10 VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M37 net7 net8 net11 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M38 net11 CLKb VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M43 Q net8 VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M44 Q net8 VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
.ends


* expanding   symbol:  engn1600-team1/CAD6/pc_full_adder.sym # of pins=7
** sym_path: /foss/designs/engn1600-team1/CAD6/pc_full_adder.sym
** sch_path: /foss/designs/engn1600-team1/CAD6/pc_full_adder.sch
.subckt full_adder VDD VSS A B CIN SUM COUT  kSUMb=1 kTS=1
*.PININFO VDD:B VSS:B A:I B:I CIN:I COUT:O SUM:O
M1 net1 B VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M2 net4 A net1 VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M3 net3 A VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M4 net3 B VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M5 net4 CIN net3 VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M6 net4 CIN net5 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M7 net2 B VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M8 net4 A net2 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M9 net5 A VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M10 net5 B VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M11 net8 net4 net7 VDD pfet_03v3 L=0.28u W='1*0.72u' nf=1 m=1
M12 net7 A VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M13 net7 CIN VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M14 net7 B VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M15 net9 A net10 VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M16 net8 CIN net9 VDD pfet_03v3 L=0.28u W='1*0.72u' nf=1 m=1
M17 net10 B VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M18 net8 net4 net6 VSS nfet_03v3 L=0.28u W='1*0.36u' nf=1 m=1
M19 net6 B VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M20 net6 A VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M21 net6 CIN VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M22 net8 CIN net12 VSS nfet_03v3 L=0.28u W='1*0.36u' nf=1 m=1
M23 net12 A net11 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M24 net11 B VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M25 COUT net4 VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M26 COUT net4 VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
**** begin user architecture code


.param kSUMb=1
.param kTS=1


**** end user architecture code
M27 SUM net8 VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M28 SUM net8 VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
.ends

