** sch_path: /foss/designs/engn1600-team1/CAD6/pc_full_adder.sch
.subckt full_adder VDD VSS A B CIN SUM COUT
*.PININFO VDD:B VSS:B A:I B:I CIN:I COUT:O SUM:O
M1 net1 B VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M2 net4 A net1 VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M3 net3 A VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M4 net3 B VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M5 net4 CIN net3 VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M6 net4 CIN net5 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M7 net2 B VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M8 net4 A net2 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M9 net5 A VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M10 net5 B VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M11 net8 net4 net7 VDD pfet_03v3 L=0.28u W='1*0.72u' nf=1 m=1
M12 net7 A VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M13 net7 CIN VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M14 net7 B VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M15 net9 A net10 VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M16 net8 CIN net9 VDD pfet_03v3 L=0.28u W='1*0.72u' nf=1 m=1
M17 net10 B VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M18 net8 net4 net6 VSS nfet_03v3 L=0.28u W='1*0.36u' nf=1 m=1
M19 net6 B VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M20 net6 A VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M21 net6 CIN VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M22 net8 CIN net12 VSS nfet_03v3 L=0.28u W='1*0.36u' nf=1 m=1
M23 net12 A net11 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M24 net11 B VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M25 COUT net4 VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M26 COUT net4 VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M27 SUM net8 VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M28 SUM net8 VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
**** begin user architecture code


.param kSUMb=1
.param kTS=1


**** end user architecture code
.ends
